US08084614B2
To 5-bromo-4-chloro-2-hydroxy-N-methyl-N-o-tolyl-benzamide (2.6 g, 7.3 mmol) in dry DMF (30 mL), was added K2CO3 (2.0 g, 7.6 mmol), followed by addition of t-butyl 4-bromobutyrate (2.0 g, 8.8 mmol). The mixture was heated at 60° C. for 12 hrs and partitioned between ethyl acetate and water. The organic layer was separated, washed with water and brine, and dried over MgSO4. After filtration, concentration and purification by silica gel column chromatography eluting with ethyl acetate in hexanes (3/7) gave 4-[4-bromo-5-chloro-2-(methyl-o-tolyl-carbamoyl)-phenoxy]-butyric acid tert-butyl ester (3.0 g). MS: 496.3 (M+H); tR=2.81 min (method 1).

reactant | 5-bromo-4-chloro-2-hydroxy-N-methyl-N-o-tolyl-benzamide | 7.3 mmol, 2.6 g | BrC=1C(=CC(=C(C(=O)N(C2=C(C=CC=C2)C)C)C1)O)Cl | C15H13BrClNO2
reactant | K2CO3 | 7.6 mmol, 2.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | t-butyl 4-bromobutyrate | 8.8 mmol, 2.0 g | BrCCCC(=O)OC(C)(C)C | C8H15BrO2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 4-[4-bromo-5-chloro-2-(methyl-o-tolyl-carbamoyl)-phenoxy]-butyric acid tert-butyl ester | 3.0 g | C(C)(C)(C)OC(CCCOC1=C(C=C(C(=C1)Cl)Br)C(N(C1=C(C=CC=C1)C)C)=O)=O | C23H27BrClNO4
